US07439379B2
To a solution of 2-(1-indenyl)benzaldehyde (7.0 mmol) in ethanol (19.4 mL) was added dropwise aniline (7.3 mmol) under a nitrogen atmosphere. The mixture was stirred at room temperature. After disappearance of the aldehyde was confirmed by gas chromatography, The solvent was distilled off under reduced pressure. After addition of ethanol (19.4 mL), sodium borohydride (4.5 mmol) was added to the solution and the mixture was reacted at room temperature for 3 hrs. Water and toluene were then added to the reaction mixture. The organic layer was dried and concentrated. The obtained oily substance was purified by silica gel column chromatography to give N-[2-(1-indenyl)phenylmethyl]-N-phenylamine (1.48 g, yield 24.0%) as a yellow oily substance.

reactant | 2-(1-indenyl)benzaldehyde | 7.0 mmol | C1(C=CC2=CC=CC=C12)C1=C(C=O)C=CC=C1 | C16H12O
reactant | aniline | 7.3 mmol | NC1=CC=CC=C1 | C6H7N
reactant | sodium borohydride | 4.5 mmol | [BH4-].[Na+]
reactant | Water | O | H2O
solvent | ethanol | 19.4 mL | C(C)O | C2H6O
solvent | ethanol | 19.4 mL | C(C)O | C2H6O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-[2-(1-indenyl)phenylmethyl]-N-phenylamine | 1.48 g, yield 24.0% | C1(C=CC2=CC=CC=C12)C1=C(C=CC=C1)CNC1=CC=CC=C1 | C22H19N
